US07026279B2
Using a standard autoclave pressure reactor 3-(methoxymethyl)-2-pentylcyclopent-2-en-1-one (0.5 mol) was hydrogenated at 100° C. and 200 pounds per square inch using 5% palladium on carbon as a catalyst. After filtration, 3-(methoxymethyl)-2-pentylcyclopentan-1-one was obtained as was confirmed by the following data;

reactant | 3-(methoxymethyl)-2-pentylcyclopent-2-en-1-one | 0.5 mol | COCC1=C(C(CC1)=O)CCCCC | C12H20O2
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(methoxymethyl)-2-pentylcyclopentan-1-one | COCC1C(C(CC1)=O)CCCCC | C12H22O2
